US07943607B2
Methyl 3-hydroxy-5-[(4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]benzoate
A mixture of methyl 3-[(9-chloro-4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]-5-[(phenylmethyl)oxy]benzoate (8.8 g, 18.8 mmol), and ammonium formate (11.87 g, 188 mmol) in methanol (190 mL) was placed under an atmosphere of argon and 10% palladium on charcoal (880 mg) added. The mixture was heated under relux for 2 hours, cooled to RT, filtered through Celite®, washed with methanol, and the filtrates evaporated in vacuo to a residue which was partitioned between water (150 mL) and ethyl acetate (200 mL). The organic layer was washed with brine, dried (MgSO4), evaporated in vacuo to a residue which was chromatographed on basic alumina, eluting with ethyl acetate then methanol, to give a solid which was crystallised from ethyl acetate and isohexane to give the desired compound (3.25 g). 1H NMR δ (CDCl3): 3.15 (s, 3H), 3.5 (t, 2H), 4.35 (t, 2H), 6.6 (dd, 1H), 6.75 (dt, 1H), 7.8 (t, 1H); m/z 344 (M+H)+

reactant | methyl 3-[(9-chloro-4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]-5-[(phenylmethyl)oxy]benzoate | 18.8 mmol, 8.8 g | ClC1=C(C=CC=2C(N(CCOC21)C)=O)OC=2C=C(C(=O)OC)C=C(C2)OCC2=CC=CC=C2 | C25H22ClNO6
reactant | ammonium formate | 188 mmol, 11.87 g | C(=O)[O-].[NH4+]
solvent | methanol | 190 mL | CO | CH4O
catalyst | palladium on charcoal | 880 mg | [Pd] | Pd
product | Methyl 3-hydroxy-5-[(4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]benzoate | 3.25 g | OC=1C=C(C(=O)OC)C=C(C1)OC1=CC2=C(C(N(CCO2)C)=O)C=C1 | C18H17NO6
